US04544771
A solution of 7.2 g of NaNO2 in 25 ml of water is added to a suspension of 36.7 g of 4'-acetyl-2-amino-4-(trans-4-pentylcyclohexyl)-biphenyl in 150 ml of 15% aqueous hydrochloric acid at -5° in the course of 0.5 hours. The solution thus obtained is added dropwise, at 0°-5° in the course of 1 hour, to a Cu(I) salt solution which has been prepared from 25 g of CuSO4.5H2O, 8.8 g of NaCl, 6.3 g of Na2SO3, 100 ml of water and 40 ml of 32% hydrochloric acid. After the mixture has been heated to 40° for half an hour, it is cooled and extracted with CH2Cl2 and the product is worked up in the customary manner. 4'-Acetyl-2-chloro-4-(trans-4-pentylcyclohexyl)-biphenyl is obtained.

reactant | NaNO2 | 7.2 g | N(=O)[O-].[Na+]
reactant | 4'-acetyl-2-amino-4-(trans-4-pentylcyclohexyl)-biphenyl | 36.7 g | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)N | C25H33NO
reactant | NaCl | 8.8 g | [Na+].[Cl-]
reactant | Na2SO3 | 6.3 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | 25 ml | O | H2O
solvent | hydrochloric acid | 150 ml | Cl | ClH
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4'-Acetyl-2-chloro-4-(trans-4-pentylcyclohexyl)-biphenyl | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)Cl | C25H31ClO
